US09034866B2
A solution of methyl 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (75 mg, 0.16 mmol) in 1 mL DMA was sparged with nitrogen and treated with ((3-methyloxetan-3-yl)methyl)zinc(II) iodide (1.11 mL, 0.59 M, 0.65 mmol) reagent while nitrogen was sparging. After 1 min, solid Pd(PPh3)4 (ca. 10 mol %) was added and the mixture stirred at 90° C. overnight. The mixture was diluted with ammonium chloride and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. Purification by flash column chromatography (12 g isco, 10-100% EtOAc) gave 27 mg of methyl 10-bromo-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate. This product was taken up in 1 mL of DMF and treated with 0.2 mL formamide then 0.2 mL of 25% wt NaOMe in MeOH. After 1 hour at room temp, the mixture was diluted with ammonium chloride and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. This material was used in subsequent operations without further purification.

reactant | methyl 10-bromo-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 0.16 mmol, 75 mg | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)I)C1 | C15H12BrIN2O2
reactant | ((3-methyloxetan-3-yl)methyl)zinc(II) iodide | 0.65 mmol, 0.59 M, 1.11 mL | [I-].CC1(COC1)C[Zn+]
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | methyl 10-bromo-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 27 mg | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CC3(COC3)C)C1 | C20H21BrN2O3
